US07759373B2
A solution of 5-(4-chloro-3-fluorophenyl)-2-(4-fluoro-phenyl)-4-hydroxymethyloxazole (965 mg) and thionyl chloride (1.1 ml) in tetrahydrofuran (30 ml) was stirred at 0° C. for 30 minutes, followed by stirring at room temperature for 2 hours. Additional thionyl chloride (1.1 ml) was added to the mixture and the mixture was refluxed for one hour. The reaction mixture was concentrated under reduced pressure. The remaining volatiles were removed by evaporation with toluene, and further dried under reduced pressure to obtain a crude product of 5-(4-chloro-3-fluorophenyl)-4-chloromethyl-2-(4-fluoro-phenyl)oxazole (925 mg).

reactant | 5-(4-chloro-3-fluorophenyl)-2-(4-fluoro-phenyl)-4-hydroxymethyloxazole | 965 mg | ClC1=C(C=C(C=C1)C1=C(N=C(O1)C1=CC=C(C=C1)F)CO)F | C16H10ClF2NO2
reactant | thionyl chloride | 1.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 1.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-(4-chloro-3-fluorophenyl)-4-chloromethyl-2-(4-fluoro-phenyl)oxazole | 925 mg | ClC1=C(C=C(C=C1)C1=C(N=C(O1)C1=CC=C(C=C1)F)CCl)F | C16H9Cl2F2NO
